US04840953
Preparation of 3-ethoxycarbonyl-9-(4-methoxycarbonylbenzoyl)thio-4H-pyrido[1,2-a]pyrimidin-4-one Ie-66.
To a mixture of 30 g of 3-ethoxycarbonyl-9-mercapto-4H-pyrido[1,2-a]pyrimidin-4-one II-1, 2.49 g of powdery potassium carbonate and 500 ml of acetone is added 23.8 g of 4-methoxycarbonylbenzoyl chloride with stirring, and the resultant mixture is stirred at room temperature for 1 hour. The reaction mixture is concentrated to dryness in vacuo and the residue is distributed in water-chlofororm. The chloroform layer is washed with saturated brine, dried over sodium sulfate and concentrated in vacuo. The residue is recrystallized from ethyl acetate to give 43 g of the titled compound Ie-66.

reactant | 3-ethoxycarbonyl-9-mercapto-4H-pyrido[1,2-a]pyrimidin-4-one | 30 g | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2S | C11H10N2O3S
reactant | potassium carbonate | 2.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxycarbonylbenzoyl chloride | 23.8 g | COC(=O)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 3-ethoxycarbonyl-9-(4-methoxycarbonylbenzoyl)thio-4H-pyrido[1,2-a]pyrimidin-4-one | 43 g, Yield: 86.9% | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2SC(C2=CC=C(C=C2)C(=O)OC)=O | C20H16N2O6S
